US04205170
To 30 mg of 2-(5,6-dihydro-6oxo benzo[b]pyrido[3,2-f]-thiepin-9yl)-propionic acid in 5 ml of ethanol was added dropwise etherial solution of diazomethane at 0° C. After 2 minutes, to this was added acetic acid to decompose an excess of the reagent, then were added chloroform and water. The organic layer was collected, washed with 5% sodium hydrogencarbonate solution, then saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain the residue, which was chromatographed over silica gel, eluted with benzene/chloroform(4/1) and there was obtained 30 mg of methyl 2-(5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]thiepin-9yl)-propionate as colorless glutinous substance.

reactant | 2-(5,6-dihydro-6oxo benzo[b]pyrido[3,2-f]-thiepin-9yl)-propionic acid | 30 mg | O=C1C2=C(SC3=C(C1)C=CC=N3)C=C(C=C2)C(C(=O)O)C | C16H13NO3S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | methyl 2-(5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]thiepin-9yl)-propionate | 30 mg | O=C1C2=C(SC3=C(C1)C=CC=N3)C=C(C=C2)C(C(=O)OC)C | C17H15NO3S
